US09162992B2
Guanidine hydrochloride (27 g, 0.28 mol) was added to cold absolute EtOH (200 mL) and NaOEt (30% in ethanol) (200 mL), and the mixture was stirred at 0° C. for 10 min. After this time, diethyl allylmalonate (55 g, 0.28 mol) was added. The reaction mixture was then stirred at room temperature for 18 h. Acidification with 3N HCl precipitated the crude product (pH=6). The solid was collected by filtration and washed with ethanol. Recrystallization from water afforded 29 g (62%) of pure 5-allyl-2-amino-4,6-dihydroxypyrimidine (CXLIII). LCMS (ESI) m/z=168 (M+H)+.

reactant | Guanidine hydrochloride | 0.28 mol, 27 g | Cl.NC(=N)N
reactant | NaOEt | 200 mL | CC[O-].[Na+]
reactant | diethyl allylmalonate | 0.28 mol, 55 g | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
solvent | EtOH | 200 mL | CCO | C2H6O
product | 5-allyl-2-amino-4,6-dihydroxypyrimidine | 29 g, 62% | C(C=C)C=1C(=NC(=NC1O)N)O | C7H9N3O2
